US09107916B2
B. 2-[5-(2,3-dihydro-1-benzofuran-7-ylmethoxy)pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 2,3-dihydro-1-benzofuran-7-ylmethanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.27 (2H, q, J=8.8 Hz), 4.68 (2H, q, J=8.8 Hz), 5.21 (2H, s), 5.83 (1H, d, J=2.0 Hz), 6.86 (1H, q, J=7.6 Hz), 7.17 (1H, d, J=7.6 Hz), 7.22 (1H, d, J=7.2 Hz), 7.37 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.58 (1H, d, J=2.0 Hz), 8.14 (1H, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H14N4O2, 319. Found, 319.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 2,3-dihydro-1-benzofuran-7-ylmethanol | O1CCC2=C1C(=CC=C2)CO | C9H10O2
product | 2-[5-(2,3-dihydro-1-benzofuran-7-ylmethoxy)pyrazol-1-yl]pyridine-4-carbonitrile | O1CCC2=C1C(=CC=C2)COC2=CC=NN2C2=NC=CC(=C2)C#N | C18H14N4O2
